US04727081
2-(Ethylaminothioxomethyl)-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide
The compound is prepared by a method analogous to that of Example 17 from N-[3-[3-(1-piperidinylmethyl) phenoxy]propyl]-hydrazine carboxamide and ethyl isothiocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl) phenoxy]propyl]-hydrazine carboxamide | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
product | 2-(Ethylaminothioxomethyl)-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide | C(C)NC(NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)=S | C19H31N5O2S
